US04731106
Phenyl isothiocyanate (28.3 g) was added to anthranilic acid (28.7 g) in absolute alcohol (250 ml) and heated at reflux for 4.5 hours. The mixture was cooled to room temperature and the solid removed by filtration to give 32.5 g of 3-phenyl-2,3-dihydro-2-thioxoquinazolin-4(1H)-one, mp 287°-291° C. Sulphuryl chloride (5.4 ml) was added dropwise at room temperature to a suspension of this product (32.5 g) in chloroform (250 ml). The mixture was heated at reflux for 4 hours. When cool, it was poured into water (400 ml), filtered and the solid washed with dichloromethane. The organic layer was separated from the filtrate, dried and concentrated in vacuo. The residue was extracted with ether, filtered and the filtrate concentrated in vacuo to give an oil which solidified on standing. This was recrystallised from cyclohexane to give crude 2-chloro-3-phenylquinazolin-4(3H)-one, mp 102°-5° C. (shown to be 90% pure by high pressure liquid phase chromatography (hplc). A mixture of this product (3.85 g), imidazole (1.02 g) and potassium carbonate (2.07 g) in acetonitrile (60 ml) was heated at reflux for 4 hours. The mixture was cooled to room temperature, and concentrated in vacuo. The residue was chromatographed on silica using light petroleum (bp 60°-80° C.)/ethyl acetate (1:1) as eluant. The resulting solid was recrystallised from cyclohexane to give 0.8 g of 3-phenyl-2-(imidazol-1-yl)-quinazolin-4(3H)-one, mp 163°-5° C. (Compound 1).

reactant | Phenyl isothiocyanate | 28.3 g | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | anthranilic acid | 28.7 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
product | 3-phenyl-2,3-dihydro-2-thioxoquinazolin-4(1H)-one | 32.5 g | C1(=CC=CC=C1)N1C(NC2=CC=CC=C2C1=O)=S | C14H10N2OS
